US07919008B2
First, 7.9 g of 1-bromo-4-trimethylsilylbenzene was dissolved into 86 ml of DME, and 6.5 g of 2,3-difluorophenylboronic acid, 1.2 g of tetrakis(triphenylphosphine)palladium (0) and 86 ml of 2.0M Na2CO3 was added thereto. Next, the reaction mixture was heated to 100° C. to perform a reaction for about 10 hours. After being cooled to room temperature, the reaction mixture was worked up with water and ether, and then purified by silica gel column chromatography to obtain the 4′-trimethylsilyl-2,3-difluorobiphenyl compound with a yield of 91%. Then, 3.0 g of the biphenyl compound was dissolved into 20 ml of dry THF under nitrogen atmosphere, and 5.0 ml of 2.5M n-BuLi was added thereto at −78° C. to form an anion over about 3 hours. Then, 2.0 ml of 4-n-propylcyclohexanone was added to the anion, and the reaction mixture was warmed gradually to room temperature. After stirring at room temperature for 2 hours, the reaction mixture was worked up with water and ether, and evaporated under reduced pressure, and then dissolved into CH2Cl2 solvent. Next, 1.0 g of TsOH was added thereto, and the reaction mixture was allowed to react at 60° C. for 10 hours. After the completion of the reaction, the reaction mixture was purified by silica gel column chromatography to obtain the silicon-containing compound (yield: 80%). 400 MHz 1H-NMR, CDCl3, δ (ppm): 0.38 (s, 9H), 0.97 (m, 3H), 1.34˜1.46 (m, 5H), 1.63˜1.76 (br, 1H), 1.84˜1.98 (m, 2H), 2.33˜2.59 (m, 3H), 6.06 (br, 1H), 7.05˜7.12 (m, 1H), 7.12˜7.18 (m, 1H), 7.56 (d, 2H), 7.63 (d, 2H).

reactant | 1-bromo-4-trimethylsilylbenzene | 7.9 g | BrC1=CC=C(C=C1)[Si](C)(C)C | C9H13BrSi
reactant | DME | 86 ml | COCCOC | C4H10O2
reactant | 2,3-difluorophenylboronic acid | 6.5 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | Na2CO3 | 2.0M, 86 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 4′-trimethylsilyl-2,3-difluorobiphenyl | yield of 91% | C[Si](C1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)(C)C | C15H16F2Si
